US08217066B2
Synthesis of 1-{4′-[4-(2-hydroxy-2-phenyl-propoxymethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (Compound 19)
Prepared according to the procedure described in Example 17, Step 2, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-phenyl-propane-1,2-diol.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 2-phenyl-propane-1,2-diol | C1(=CC=CC=C1)C(CO)(C)O | C9H12O2
product | 1-{4′-[4-(2-hydroxy-2-phenyl-propoxymethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | OC(COCC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C)(C)C1=CC=CC=C1 | C30H29NO5
